US09029409B2
A solution of methyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)acetate (0.5 g, 1.92 mmol, WO 2009134400) in 2M solution of Methyl amine in THF (5 mL) was stirred at RT for 16 h. The separated solid is collected by filtration and dried under vacuum to afford 2-(5-bromo-2-oxopyridin-1(2H)-yl)-N-methylacetamide as off-white solid, 0.35 g (74%), 1H NMR (400 MHz, DMSO): 8.09 (1H, d, J=4.4 Hz), 7.93 (1H, d, J=2.4 Hz), 7.54 (1H, dd, J=3.0, 9.8 Hz), 6.36 (1H, d, J=9.8 Hz), 4.47 (2H, s), 2.61 (3H, d, J=4.9 Hz). ES-MS: 247.1 (M+2H).

reactant | methyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)acetate | 1.92 mmol, 0.5 g | BrC=1C=CC(N(C1)CC(=O)OC)=O | C8H8BrNO3
reactant | Methyl amine | CN | CH5N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(5-bromo-2-oxopyridin-1(2H)-yl)-N-methylacetamide | BrC=1C=CC(N(C1)CC(=O)NC)=O | C8H9BrN2O2
